US05104866
To a suspension of crystals of 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate sulfate (syn isomer) (500 mg) in 50% aqueous acetone (4 ml) was added sodium hydrogencarbonate (323 mg) at ambient temperature. Carbonic acid gas was bubbled into the mixture for four hours and diluted with water. The resulting mixture was chromatographed on non-ionic adsorption resin "Diaion HP-20" (50 ml) eluting with water. The desired fractions were collected and lyophilized to give sodium 7-[2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate (syn isomer) (239.6 mg).

reactant | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate sulfate | 500 mg | S(=O)(=O)([O-])O.NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]23CCC(CC2)(CC3)C(N)=O)C(=O)O)C1=O)=NOC
reactant | sodium hydrogencarbonate | 323 mg | C(O)([O-])=O.[Na+]
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | sodium 7-[2-(5-carboxylatoamino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(4-carbamoyl-1-quinuclidinio)methyl-3-cephem-4-carboxylate | 239.6 mg | C(=O)([O-])NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]23CCC(CC2)(CC3)C(N)=O)C(=O)[O-])C1=O)=NOC.[Na+] | InChI=1S/C22H26N8O8S2.Na/c1-38-27-11(14-25-20(40-28-14)26-21(36)37)15(31)24-12-16(32)29-13(18(33)34)10(9-39-17(12)29)8-30-5-2-22(3-6-30,4-7-30)19(23)35;/h12,17H,2-9H2,1H3,(H5-,23,24,25,26,28,31,33,34,35,36,37);/q;+1/p-1/t12?,17-,22?,30?;/m1./s1
